US06426345B1
A mixture of 3-amino-2-[(m-tolyl)amino]pyridine (299 mg) and phenylpyruvic acid (246 mg) in ethanol (5 ml) was refluxed for 2 hours. The mixture was cooled and the precipitates were collected and washed with ethanol to give 2-benzyl-3-oxo-4-(m-tolyl)-3,4-dihydropyrido[2,3-b]pyrazine (264 mg).

reactant | 3-amino-2-[(m-tolyl)amino]pyridine | 299 mg | NC=1C(=NC=CC1)NC=1C=C(C=CC1)C | C12H13N3
reactant | phenylpyruvic acid | 246 mg | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-benzyl-3-oxo-4-(m-tolyl)-3,4-dihydropyrido[2,3-b]pyrazine | 264 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C=1C=C(C=CC1)C)N=CC=C2 | C21H17N3O
